US04105789
L-alanine benzyl ester (44.7 g.) and hydroxybenzotriazole (34 g.) are dissolved in dioxane (750 ml.) and the solution is chilled with stirring in an ice-water bath. Dicyclohexylcarbodiimide (51.5 g.) and 3-methoxycarbonyl-2-methylpropanoic acid (36 g.), prepared by hydrogenation of 3-methoxycarbonyl-2-methylene propanoic acid, are added in that order and the mixture is stirred at room temperature for 18 hours. The precipitate is filtered off, and the filtrate is concentrated to dryness in vacuo. The residue is dissolved in ethyl acetate and washed neutral. The ethyl acetate is dried over magnesium sulfate and concentrated to dryness in vacuo to yield N-(3-methoxycarbonyl-2-methylpropanoyl)-L-alanine benzyl ester.

reactant | L-alanine benzyl ester | 44.7 g | C(C1=CC=CC=C1)OC([C@@H](N)C)=O | C10H13NO2
reactant | hydroxybenzotriazole | 34 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | Dicyclohexylcarbodiimide | 51.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 3-methoxycarbonyl-2-methylpropanoic acid | 36 g | COC(=O)CC(C(=O)O)C | C6H10O4
reactant | 3-methoxycarbonyl-2-methylene propanoic acid | COC(=O)CC(C(=O)O)=C | C6H8O4
solvent | dioxane | 750 ml | O1CCOCC1 | C4H8O2
product | N-(3-methoxycarbonyl-2-methylpropanoyl)-L-alanine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC(C(CC(=O)OC)C)=O)C)=O | C16H21NO5
